US06887890B2
Synthesis of tris (4-methylaminophenyl)methane
The tris(4-formylaminophenyl)methane (130 mg) obtained in Reference Example 31 was dissolved in tetrahydrofuran (5 ml), after which lithium aluminum hydride (66.1 mg) was added under a nitrogen atmosphere at 5° C., the temperature was raised to room temperature, and the mixture was stirred for 19 hours. Water (5 ml) was added to the reaction mixture at 5° C., and stirring was continued for 10 minutes. The reaction mixture was filtered with celite and the filtrate was concentrated to dryness. The residue was purified by silica gel column chromatography (Kiesel-gel 60, 240-400 mesh) and elution was performed with a mixed solvent of chloroform:methanol=98:2 to obtain 81.1 mg of the title compound as a yellow oily substance (70% yield).

reactant | tris(4-formylaminophenyl)methane | 130 mg | C(=O)NC1=CC=C(C=C1)C(C1=CC=C(C=C1)NC=O)C1=CC=C(C=C1)NC=O | C22H19N3O3
reactant | lithium aluminum hydride | 66.1 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 5 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | tris (4-methylaminophenyl)methane | 81.1 mg, 70% yield | CNC1=CC=C(C=C1)C(C1=CC=C(C=C1)NC)C1=CC=C(C=C1)NC | C22H25N3
